US06518286B1
(i) tert-Butyl 4-(3,4-dichloroanilino)-1-piperidinecarboxylate
A solution of 3,4-dichloroaniline (5 g), N-tert-butoxycarbonyl4-piperidone (11.7 g), sodium triacetoxyborohydride (19.7 g) and acetic acid (7 ml) in dichloroethane (150 ml) was stirred for 16 hours. 2M NaOH solution and ether were added, the organic phase separated, dried and concentrated. The residue was triturated under an isohexane:ethyl acetate, 4:1 mixture and the sub-titled product collected as a solid (7.25 g).

reactant | 3,4-dichloroaniline | 5 g | ClC=1C=C(N)C=CC1Cl | C6H5Cl2N
reactant | N-tert-butoxycarbonyl4-piperidone | 11.7 g | C(C)(C)(C)OC(=O)N1CCC(CC1)=O | C10H17NO3
reactant | sodium triacetoxyborohydride | 19.7 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | NaOH | 2M | [OH-].[Na+]
solvent | dichloroethane | 150 ml | ClC(C)Cl | C2H4Cl2
solvent | ether | CCOCC | C4H10O
solvent | acetic acid | 7 ml | C(C)(=O)O | C2H4O2
product | tert-Butyl 4-(3,4-dichloroanilino)-1-piperidinecarboxylate | ClC=1C=C(NC2CCN(CC2)C(=O)OC(C)(C)C)C=CC1Cl | C16H22Cl2N2O2
